US08859732B2
Methyl 4-amino-2-methoxybenzoate (79 mg, 0.44 mmol) was dissolved in chloroform (1 ml), and HOBt (7 mg, 0.05 mmol) and 3,4,5-tris(octadecyloxy)cyclohexylcarboxylic acid (201 mg, 0.22 mmol) were added. EDC.HCl (45 mg, 0.23 mmol) was added under ice-cooling, and the mixture was stirred at room temperature overnight. After completion of the reaction, the solvent was evaporated, and the residue was precipitated with acetonitrile (10 ml), and then purified by silica gel column chromatography (chloroform/ethyl acetate=10:1) to give N-(3-methoxy-4-methoxycarbonylphenyl) 3,4,5-tris(octadecyloxy)cyclohexylcarboxamide (70 mg, 0.06 mmol, yield 27%).

reactant | Methyl 4-amino-2-methoxybenzoate | 0.44 mmol, 79 mg | NC1=CC(=C(C(=O)OC)C=C1)OC | C9H11NO3
reactant | HOBt | 0.05 mmol, 7 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 3,4,5-tris(octadecyloxy)cyclohexylcarboxylic acid | 0.22 mmol, 201 mg | C(CCCCCCCCCCCCCCCCC)OC1CC(CC(C1OCCCCCCCCCCCCCCCCCC)OCCCCCCCCCCCCCCCCCC)C(=O)O | C61H120O5
reactant | EDC.HCl | 0.23 mmol, 45 mg | CCN=C=NCCCN(C)C.Cl
solvent | chloroform | 1 ml | C(Cl)(Cl)Cl | CHCl3
product | N-(3-methoxy-4-methoxycarbonylphenyl) 3,4,5-tris(octadecyloxy)cyclohexylcarboxamide | 0.06 mmol, 70 mg, yield 27% | COC=1C=C(C=CC1C(=O)OC)NC(=O)C1CC(C(C(C1)OCCCCCCCCCCCCCCCCCC)OCCCCCCCCCCCCCCCCCC)OCCCCCCCCCCCCCCCCCC | C70H129NO7
